US05017569
Concentrated sulphuric acid (1 ml) and 2,3-dihydroxybenzoic acid (0.5 g) were heated at 60° C. for 1 hour. The mixture was cooled, taken up in ether (20 ml), poured into dichloromethane (200 ml) and cooled to give as crystals, 3-carboxy-4,5-dihydroxybenzenesulphonic acid (0.31 g); δ(DMSO-d6); 7.34(d,1H); 7.61(d,1H). To a suspension of this acid (1 g) in acetonitrile (10 ml) was added triethylamine (2.4 ml), followed by isobutyryl chloride (1.5 ml). The solution was stirred at room temperature for 1 hour, the solvent was evaporated and the residue purified by chromatography on Diaion HP 20 SS resin (aqueous methanol containing 1% acetic acid) to give 3-carboxy-4,5-di-isobutyroxybenzene sulphonic acid (1.2 g); δ(DMSO-d6): 1.19(s,6H); 1.27(s,6H); 2.90-3.15(m,2H); 7.63(d,1H); 8.04(d,1H).

reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dihydroxybenzoic acid | 0.5 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-carboxy-4,5-dihydroxybenzenesulphonic acid | 0.31 g | C(=O)(O)C=1C=C(C=C(C1O)O)S(=O)(=O)O | C7H6O7S
